US05342941
1-(4-Pyridyl)-2,3-bis(methoxycarbonyl)-6-benzyloxy-7-methoxynaphthalene (2.3 g) is dissolved in acetic acid (50 ml), and thereto is added 10% palladium-carbon. The mixture is subjected to hydrogenation for 3 hours with shaking by using a moderate-pressure reduction apparatus (Parr). The palladium-carbon is removed by filtration, and the filtrate is concentrated. The precipitated crystal is washed with diethyl ether to give 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene (1.8 g).

reactant | 1-(4-Pyridyl)-2,3-bis(methoxycarbonyl)-6-benzyloxy-7-methoxynaphthalene | 2.3 g | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC | C27H23NO6
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | [C].[Pd]
product | 1-(4-pyridyl)-2,3-bis(methoxycarbonyl)-6-hydroxy-7-methoxynaphthalene | 1.8 g, Yield: 98% | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)O)C(=O)OC)C(=O)OC | C20H17NO6
